US04002611
To a suspension of 2.7 g. of 1-(2'-aminoethyl)-3-phenyl-5-chloro-indole hydrochloride in 30 ml. of acetic acid is added a solution of 2.7 g. of chromic anhydride in 3 ml. of water at 10°-15° C. The reaction mixture is stirred for 16 hours at 20° C. The reaction mixture is poured into 500 ml. of water and neutralized to pH 7-8 with ammonia water and extracted with chloroform. The chloroform layer is washed with water and dried over sodium sulfate. The solvent is removed by distillation to an oily residue, to which is added ethanol and insoluble matter is removed by filtration. The filtrate is evaporated to a solidal residue, to which is added isopropanol. After heating, the mixture is cooled to give a light brown insoluble substance, which is removed by filtration. Water is added to the filtrat, and the mixture is extracted with 300 ml. of ether, and ethereal layer was washed with water, dried and thereafter the ether is removed by distillation to give a light yellow-white powder. It is recrystallized from a solvent mixture of ethanol and hexane to give 1-formyl-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepine having a melting point of 245° C. (decomp.). And, the crystals are colored around 230° C.

reactant | 1-(2'-aminoethyl)-3-phenyl-5-chloro-indole hydrochloride | Cl.NCCN1C=C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-formyl-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepine | C(=O)N1CCN=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2 | C16H13ClN2O
